US07452911B2
3.40g 5-[5-(4-chloro-phenyl)-pyridin-2-ylethynyl]-2-pyrrolidin-1-ylmethyl-1H-benzimidazole
Prepared according to general working method I from 5-iodo-2-pyrrolidin-1-ylmethyl-1H-benzimidazole (200 mg, 0.61 mmol) and 5-(4-chloro-phenyl)-2-ethynyl-pyridine (131 mg, 0.61 mmol).

reactant | 5-iodo-2-pyrrolidin-1-ylmethyl-1H-benzimidazole | 0.61 mmol, 200 mg | IC1=CC2=C(NC(=N2)CN2CCCC2)C=C1 | C12H14IN3
reactant | 5-(4-chloro-phenyl)-2-ethynyl-pyridine | 0.61 mmol, 131 mg | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#C | C13H8ClN
product | 5-[5-(4-chloro-phenyl)-pyridin-2-ylethynyl]-2-pyrrolidin-1-ylmethyl-1H-benzimidazole | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#CC1=CC2=C(NC(=N2)CN2CCCC2)C=C1 | C25H21ClN4
